US06777428B1
4-(2-nitrobenzoyl)piperidine HCl and 4-(3-nitrobenzoyl)piperidine HCl (80:20) mixture (9.7 g, 0.0358 mol) was refluxed for 6 h in trifluoroacetic anhydride (55 mL). The reaction was monitored by TLC [silica gel/ethyl ether-hexane (96/4)]. The solution was allowed to stir overnight at room temperature. Then, the solution was concentrated under reduce pressure. The residue was taken up with isopropanol (2×50 mL), concentrated and dried under vacuum to give a 11.3 g (96%) of 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine and 4-(3-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine mixture.

reactant | 4-(2-nitrobenzoyl)piperidine HCl | Cl.[N+](=O)([O-])C1=C(C(=O)C2CCNCC2)C=CC=C1
reactant | 4-(3-nitrobenzoyl)piperidine HCl | Cl.[N+](=O)([O-])C=1C=C(C(=O)C2CCNCC2)C=CC1
reactant | trifluoroacetic anhydride | 55 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-(2-nitrobenzoyl)-1-trifluoromethylcarbonylpiperidine | 11.3 g, 96% | [N+](=O)([O-])C1=C(C(=O)C2CCN(CC2)C(=O)C(F)(F)F)C=CC=C1 | C14H13F3N2O4
